US09062008B2
Step 2: 5-(5-amino-6-(benzyloxy)pyrazin-2-yl)-1-isopropylpyridin-2(1H)-one
3-(benzyloxy)-5-bromopyrazin-2-amine (100 mg, 0.358 mmol) was dissolved in acetonitrile (4 mL). Aqueous Na2CO3 solution (462.3 μL of 2 M, 0.9247 mmol), 1-isopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one (146.0 mg, 0.5548 mmol) and cyclopenta-1,4-dien-1-yl(diphenyl)phosphane; dichloromethane; dichloropalladium; iron (75.33 mg, 0.09247 mmol) was added and the reaction mixture was heated for 30 minutes at 100° C. under microwave conditions. The reaction mixture was concentrated in vacuo and the residue was partitioned between DCM and water. The layers were separated and the aqueous further extracted with DCM. The combined organic extract was dried (MgSO4), filtered and concentrated in vacuo. This material was purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 μM, 100 Å column, gradient 10%-95% B (solvent A: 0.05% TFA in water; solvent B: CH3CN) over 16 minutes at 25 mL/min]. The fractions were collected, and freeze-dried to give the title compound (16 mg, 6.13% Yield). H1 NMR (400.0 MHz, DMSO) δ 1.35 (d, J=6.8 Hz, 6H), 5.10 (m, J=6.8 Hz, 1H), 5.53 (s, 2H), 6.46 (d, J=9.5 Hz, 1H), 7.32 (m, J=7.3 Hz, 1H), 7.38-7.41 (m, 2H), 7.54 (d, J=7.2 Hz, 2H), 7.95 (dd, J=2.5, 9.5 Hz, 1H), 7.98 (s, 1H) and 8.06 (d, J=2.5 Hz, 1H). MS (ES+) 337.0

reactant | 3-(benzyloxy)-5-bromopyrazin-2-amine | 0.358 mmol, 100 mg | C(C1=CC=CC=C1)OC=1C(=NC=C(N1)Br)N | C11H10BrN3O
reactant | Na2CO3 | 0.9247 mmol, 2 M, 462.3 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-isopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | 0.5548 mmol, 146.0 mg | C(C)(C)N1C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C14H22BNO3
reactant | cyclopenta-1,4-dien-1-yl(diphenyl)phosphane | C1(=CCC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C17H15P
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
catalyst | dichloropalladium | Cl[Pd]Cl
catalyst | iron | 0.09247 mmol, 75.33 mg | [Fe] | Fe
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(5-amino-6-(benzyloxy)pyrazin-2-yl)-1-isopropylpyridin-2(1H)-one | 16 mg, 6.13% Yield | NC=1N=CC(=NC1OCC1=CC=CC=C1)C=1C=CC(N(C1)C(C)C)=O | C19H20N4O2
